US07179819B2
To a stirred solution of ethyl 4-[N′-(2,6-dichlorophenyl)ureido]phenylacetate (3.19 g, 8.69 mmol) in THF (70 ml), 0.25 N NaOH (70 ml) was added. After stirring at room temperature for 17 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of water, to give 4-[N′-(2,6-dichlorophenyl)ureido]phenylacetic acid (2.44 g, 82%) as colorless powder. mp 262–263° C. (dec.); 1H-NMR (DMSO-d6) δ 3.48 (s, 2H), 7.14 (d, J=8.3 Hz, 2H), 7.31 (t, J=8.3 Hz, 1H), 7.37 (d, J=8.3 Hz, 2H), 7.52 (d, J=8.0 Hz, 2H), 8.18 (s, 1H), 8.90 (s, 1H), 12.22 (br, 1H); MS (ESI) m/z 339 (M++1), 341 (M++3), 343 (M++5).

reactant | ethyl 4-[N′-(2,6-dichlorophenyl)ureido]phenylacetate | 8.69 mmol, 3.19 g | ClC1=C(C(=CC=C1)Cl)NC(NC1=CC=C(C=C1)CC(=O)OCC)=O | C17H16Cl2N2O3
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | NaOH | 0.25 N, 70 ml | [OH-].[Na+]
product | 4-[N′-(2,6-dichlorophenyl)ureido]phenylacetic acid | 2.44 g, 82% | ClC1=C(C(=CC=C1)Cl)NC(NC1=CC=C(C=C1)CC(=O)O)=O | C15H12Cl2N2O3
